US07105567B2
By the reaction and treatment in the same manner as in Preparation Example 1 using 4-fluorobenzaldehyde (1.2 g) and 4-isopropylaniline (1.4 g) as starting materials, [(4-fluorophenyl)methyl](4-isopropylphenyl)amine (2.2 g) was obtained.

reactant | 4-fluorobenzaldehyde | 1.2 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-isopropylaniline | 1.4 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | [(4-fluorophenyl)methyl](4-isopropylphenyl)amine | 2.2 g | FC1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C | C16H18FN
